US07939526B2
Sodium hydride (60% dispersion in oil, 59 mg, 1.47 mmol) was added to a stirred solution of 1-[2-(methoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol (4.20 g, 14.7 mmol) in tetrahydrofuran (59 mL). After 5 minutes, methyl vinyl sulfone (3.10 g, 29.4 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 17 hours. Water (5 mL) was added and the mixture was concentrated under reduced pressure to afford an oil that was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to provide 3.7 g of 2-(methoxymethyl)-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline as a white solid.

reactant | Sodium hydride | 1.47 mmol, 59 mg | [H-].[Na+]
reactant | 1-[2-(methoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 14.7 mmol, 4.20 g | COCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C16H19N3O2
reactant | methyl vinyl sulfone | 29.4 mmol, 3.10 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | Water | 5 mL | O | H2O
solvent | tetrahydrofuran | 59 mL | O1CCCC1 | C4H8O
product | 2-(methoxymethyl)-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline | 3.7 g | COCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(OCCS(=O)(=O)C)C | C19H25N3O4S
